US07030116B2
4,4-Dimethyl-2-(2-morpholin-4-yl-2-oxo-ethyl)-5-phenyl-pentanoic acid[(S)-1-(benzoxazole-2-carbonyl)-butyl]-amide
It is similarly prepared according to general procedure given for example 10 above but using (R)-4,4-Dimethyl-2-(2-morpholin-4-yl-2-oxo-ethyl)-5-phenyl-pentanoic acid and (S)-2-Amino-1-benzoxazol-2-yl-pentan-1-ol.

reactant | (R)-4,4-Dimethyl-2-(2-morpholin-4-yl-2-oxo-ethyl)-5-phenyl-pentanoic acid | CC(C[C@@H](C(=O)O)CC(=O)N1CCOCC1)(CC1=CC=CC=C1)C | C19H27NO4
reactant | (S)-2-Amino-1-benzoxazol-2-yl-pentan-1-ol | NC([C@H](O)C=1OC2=C(N1)C=CC=C2)CCC | C12H16N2O2
product | 4,4-Dimethyl-2-(2-morpholin-4-yl-2-oxo-ethyl)-5-phenyl-pentanoic acid[(S)-1-(benzoxazole-2-carbonyl)-butyl]-amide | O1C(=NC2=C1C=CC=C2)C(=O)[C@H](CCC)NC(C(CC(CC2=CC=CC=C2)(C)C)CC(=O)N2CCOCC2)=O | C31H39N3O5
